US08476029B2
To a solution of 1-(3-chlorophenyl)piperazine hydrochloride (12 g, 0.051 mol) in anhydrous toluene (250 ml) was added triethylamine (TEA) (15.6 ml, 0.112 mol) and ethyl 6-bromohexanoate (13.6 g, 0.061 mol) and the mixture heated at reflux for 4 hours. The mixture was then cooled to room temperature, washed with water (2×100 ml), brine (100 ml), dried over Na2SO4, filtered and concentrated to dryness. The residue obtained was purified by flash chromatography on silica gel using ethyl acetate/hexane (1/1) to give ethyl 6-[N′-(3-chlorophenyl)-N-piperazinyl]hexanoate (10.3 g) as a clear oil.

reactant | 1-(3-chlorophenyl)piperazine hydrochloride | 0.051 mol, 12 g | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | triethylamine | 0.112 mol, 15.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 6-bromohexanoate | 0.061 mol, 13.6 g | BrCCCCCC(=O)OCC | C8H15BrO2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 6-[N′-(3-chlorophenyl)-N-piperazinyl]hexanoate | 10.3 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCCCCC(=O)OCC | C18H27ClN2O2
